US09278944B2
To a solution of ethyl 3-bromo-1-(3-methoxypropyl)-1H-pyrrolo[3,2-c]pyridine-6-carboxylate (1.70 g) in 1,4-dioxane (25 mL) were added trimethylboroxine (2.09 mL), cesium carbonate (4.87 g), 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl (X-Phos) (297 mg) and tris(dibenzylideneacetone)dipalladium (228 mg) under argon, and the mixture was stirred at 110° C. for 15 hours. The reaction solution was cooled, and then thereto was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane→ethyl acetate) to give ethyl 1-(3-methoxypropyl)-3-methyl-1H-pyrrolo[3,2-c]pyridine-6-carboxylate [REx(105-4)] (831 mg) as a yellow oil.

reactant | ethyl 3-bromo-1-(3-methoxypropyl)-1H-pyrrolo[3,2-c]pyridine-6-carboxylate | 1.70 g | BrC1=CN(C2=C1C=NC(=C2)C(=O)OCC)CCCOC | C14H17BrN2O3
reactant | trimethylboroxine | 2.09 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | cesium carbonate | 4.87 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl | 297 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 228 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | ethyl 1-(3-methoxypropyl)-3-methyl-1H-pyrrolo[3,2-c]pyridine-6-carboxylate | 831 mg | COCCCN1C=C(C=2C=NC(=CC21)C(=O)OCC)C | C15H20N2O3
